US06300353B1
A mixture of 2.88 g of 4-(tert-butoxycarbonylmethylamino)acetoxy-3,5-dimethylbenzaldehyde and 0.34 g of sodium borohydride in 25 ml of tetrahydrofuran was stirred for 2 h at room temperature. The mixture was diluted with ethyl acetate and was washed with 0.25N HCl. The organic layer was dried over anhydrous sodium sulfate and concentrated to obtain (tert-butoxycarbonylmethylamino)acetic acid 2,6-dimethyl-4-hydroxymethylphenyl ester (2.9 g) as a colourless syrup. To a solution of 2.8 g of (tert-butoxycarbonylmethylamino)acetic acid 2,6-dimethyl-4-hydroxymethylphenyl ester and 2.73 g of triphenylphosphine in 30 ml of dichloromethane, 3.44 g of carbon tetrabromide was added and the mixture was stirred for 1 h at room temperature. The mixture was concentrated and the residue was chromatographed on silica gel (Wakogel C-200, solvent: CH2Cl2)to obtain (tert-butoxycarbonylmethylamino)acetic acid 4-bromomethyl-2,6-dimethylphenyl ester (2.97 g, 89% ) as a colourless oil.

reactant | 4-(tert-butoxycarbonylmethylamino)acetoxy-3,5-dimethylbenzaldehyde | 2.88 g | C(C)(C)(C)OC(=O)CNCC(=O)OC1=C(C=C(C=O)C=C1C)C | C17H23NO5
reactant | sodium borohydride | 0.34 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (tert-butoxycarbonylmethylamino)acetic acid 2,6-dimethyl-4-hydroxymethylphenyl ester | 2.9 g | CC1=C(C(=CC(=C1)CO)C)OC(CNCC(=O)OC(C)(C)C)=O | C17H25NO5
